US04703053
A mixture of 10.4 g (0.093 mole) of potassium tert-butoxide in 175 ml of toluene (under a nitrogen atmosphere) is stirred and cooled in a cold water bath. A solution of 18.1 g (0.071 mole) of 4-methoxy-2-(2-methoxy-2-oxoethoxy) benzoic acid, methyl ester is added over 80 minutes. The mixture is stirred and heated on the steam bath for three hours, then cooled and added to 600 g of ice/water. The organic layer is separated, washed with water (2×100 ml), and the aqueous washes are combined with the original aqueous layer. The combined aqueous layers are washed with dichloromethane (2×250 ml), then filtered. The filtrate is cooled in ice and acidified with glacial acetic acid to precipitate the crude product, which is filtered and washed with water. Recrystallizatin from aqueous methanol yields 8.5 g 54% yield) of the 3-hydroxy-6-methoxy-2-benzofurancarboxylic acid methyl ester product, mp 93°-95 ° C. (mp of 80°-85° C. is reported in the J. D. Brewer, et al reference cited above).

reactant | potassium tert-butoxide | 0.093 mole, 10.4 g | CC(C)([O-])C.[K+]
reactant | 4-methoxy-2-(2-methoxy-2-oxoethoxy) benzoic acid, methyl ester | 0.071 mole, 18.1 g | COC1=CC(=C(C(=O)OC)C=C1)OCC(=O)OC | C12H14O6
solvent | toluene | 175 ml | C1(=CC=CC=C1)C | C7H8
product | 3-hydroxy-6-methoxy-2-benzofurancarboxylic acid methyl ester | 54% yield | COC(=O)C=1OC2=C(C1O)C=CC(=C2)OC | C11H10O5
